US06548511B1
3-Allyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone (1.14 g, 4.56 mmol) was dissolved in DMF (15 ml), and 2,5-bis(trifluoromethyl)aniline (0.55 ml, 3.52 mmol) was added. Sodium hydride (60% in oil, 0.23 g, 5.75 mmol) was added with stirring under ice-cooling, followed by stirring at room temperature for 1 hour and then at 70° C. for 2.5 hours. After completion of the reaction, ether (30 ml) and saturated ammonium chloride aqueous solution (30 ml) were added to the reaction solution to separate the organic layer, and the resulting aqueous layer was extracted with ether (20 ml×2). The organic layers were combined, washed with saturated brine (20 ml×2) and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. By purifying the thus obtained crude product by a silica gel column chromatography (hexane), 3-allyl-2-{2,5-bis(trifluoromethyl)phenyl}amino-6-trifluoromethyl-4(3H)pyrimidinone [Compound No. 66] was obtained as a white solid.

reactant | 3-Allyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone | 4.56 mmol, 1.14 g | C(C=C)N1C(=NC(=CC1=O)C(F)(F)F)SC | C9H9F3N2OS
reactant | 2,5-bis(trifluoromethyl)aniline | 3.52 mmol, 0.55 ml | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
reactant | Sodium hydride | 5.75 mmol, 0.23 g | [H-].[Na+]
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ether | 30 ml | CCOCC | C4H10O
product | 3-allyl-2-{2,5-bis(trifluoromethyl)phenyl}amino-6-trifluoromethyl-4(3H)pyrimidinone | Yield: 89% | C(C=C)N1C(=NC(=CC1=O)C(F)(F)F)NC1=C(C=CC(=C1)C(F)(F)F)C(F)(F)F | C16H10F9N3O
